US09216968B2
Methyl 2-(2-amino-2-oxoethyl)-6-nitro-1H-benzimidazole-4-carboxylate
Under ice-cooling, potassium nitrate (117 mg) was added slowly portion-wise to a stirring solution of methyl 2-(cyanomethyl)-1H-benzimidazole-4-carboxylate (prepared as described in EP1479681) (226 mg) in conc. sulfuric acid (5 mL), and the mixture was stirred at room temperature for 5 hours. The reaction mixture was poured into ice, and alkalified with 3N aqueous sodium hydroxide solution, and extracted with ethyl acetate. The ethyl acetate layer was washed sequentially with water and brine, dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was washed with MeOH, filtered and dried to obtain the titled compound (243 mg).

reactant | potassium nitrate | 117 mg | [N+](=O)([O-])[O-].[K+]
reactant | methyl 2-(cyanomethyl)-1H-benzimidazole-4-carboxylate | 226 mg | C(#N)CC1=NC2=C(N1)C=CC=C2C(=O)OC | C11H9N3O2
reactant | sodium hydroxide | 3N | [OH-].[Na+]
solvent | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
product | Methyl 2-(2-amino-2-oxoethyl)-6-nitro-1H-benzimidazole-4-carboxylate | 243 mg | NC(CC1=NC2=C(N1)C=C(C=C2C(=O)OC)[N+](=O)[O-])=O | C11H10N4O5
